US06358971B1
2-Amino-3-isobutyl-6-benzoyl-imidazo[1,2-a]pyridine
The 2-trifluoroacetamido-3-isobutyl-6-benzoyl-imidazo[1,2-a]pyridine (2.37 g, 6.09 mmol) was converted to product in a manner substantially analogous to Example 67 to yield 1.49 g. (83.5%). EA, MS(FD).

reactant | 2-trifluoroacetamido-3-isobutyl-6-benzoyl-imidazo[1,2-a]pyridine | 6.09 mmol, 2.37 g | FC(C(=O)NC=1N=C2N(C=C(C=C2)C(C2=CC=CC=C2)=O)C1CC(C)C)(F)F | C20H18F3N3O2
solvent | EA | CC(OCC)=O | C4H8O2
product | 2-Amino-3-isobutyl-6-benzoyl-imidazo[1,2-a]pyridine | NC=1N=C2N(C=C(C=C2)C(C2=CC=CC=C2)=O)C1CC(C)C | C18H19N3O
